US05382683
To a stirred solution of 1,2-bis(4-fluorophenyl)-2-propylamine (11.07 g, 0.045 mol) in 200 ml of chloroform under nitrogen, were added N-CBZ-L-alanine (10.0 g, 0.045 mol) and then a solution of dicyclohexylcarbodiimide (9.90 g, 0.05 mol) in 100 ml of chloroform, and the mixture was stirred for 16 hours. The precipitated solid was removed by filtration and the solvent evaporated. The residue was treated with ethyl acetate (100 ml), filtered, an additional 300 ml of ethyl acetate added, and then washed with 1% cold HCl (100 ml), brine (2×100 ml), dried over MgSO4, and the solvent evaporated. The residue was dissolved in 450 ml of methanol and 35 ml of 10% HCl and hydrogenated at 40 psi in a Parr apparatus over 3.0 g of 5% Pd/C catalyst for 3 hours. The catalyst was removed by filtration, the solvent evaporated and the residue dissolved in water (200 ml) and chloroform (300 ml), basified to pH 11 with 50% NaOH, shaken and separated. The aqueous phase was extracted with chloroform (2×200 ml), and the combined organic phases were washed with water (2×200 ml), and dried over MgSO4. Removal of solvent gave a white solid. This solid was recrystallized from cyclohexane/hexane and then from hexane/ethanol, and vacuum dried to give 1.5 g of (2S)-2-amino-N-[1,2-bis(4-fluorophenyl)-1-methylethyl]propanamide, mp. 134°-135° C.

reactant | 1,2-bis(4-fluorophenyl)-2-propylamine | 0.045 mol, 11.07 g | FC1=CC=C(C=C1)CC(C)(C1=CC=C(C=C1)F)N | C15H15F2N
reactant | N-CBZ-L-alanine | 0.045 mol, 10.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | dicyclohexylcarbodiimide | 0.05 mol, 9.90 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S)-2-amino-N-[1,2-bis(4-fluorophenyl)-1-methylethyl]propanamide | 1.5 g | N[C@H](C(=O)NC(CC1=CC=C(C=C1)F)(C)C1=CC=C(C=C1)F)C | C18H20F2N2O
